simulator lang=spectre
global 0

ahdl_include "./dut/ref_step_clk.va"

// Visible smoke testbench for the standalone reference-step clock generator.
VDD_SRC (VDD 0) vsource type=dc dc=0.9
VSS_SRC (VSS 0) vsource type=dc dc=0
XREF (VDD VSS CLK) ref_step_clk \
period_pre=20n period_post=19.5n t_switch=2u tedge=100p

simulatorOptions options evas_profile=balanced

tran tran stop=3u maxstep=250p errpreset=conservative
save VDD VSS CLK
